US06900216B2
A mixture of 2-bromo-1-(7-chlorobenzo[b]thiophen-2-yl)propan-1-one (2.32 g), 2-imidazolidinethione (0.53 g), ethanol (25 ml) and acetic acid (12.5 ml) was heated under reflux for 3 hours and allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with ethanol and dried in vacuo to give 3-(7-chlorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (1.12 g) as a white solid, m.p. 294-295° C.

reactant | 2-bromo-1-(7-chlorobenzo[b]thiophen-2-yl)propan-1-one | 2.32 g | BrC(C(=O)C1=CC2=C(S1)C(=CC=C2)Cl)C | C11H8BrClOS
reactant | 2-imidazolidinethione | 0.53 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | 3-(7-chlorobenzo[b]thiophen-2-yl)-2-methyl-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 1.12 g | Br.ClC1=CC=CC2=C1SC(=C2)C=2N1C(SC2C)=NCC1 | InChI=1S/C14H11ClN2S2.BrH/c1-8-12(17-6-5-16-14(17)18-8)11-7-9-3-2-4-10(15)13(9)19-11;/h2-4,7H,5-6H2,1H3;1H
